US08137821B2
After a 100 mL three-neck flask equipped with a magnetic stirrer, a reflux condenser and a thermometer was replaced with Ar, 40.0 mL of methanol, 5 wt % Pd/C (0.40 g) and 7-allyl-5-fluoro-8-quinolinol (4.09 g) were thrown thereto and the mixture was stirred under slight pressurization of hydrogen. After replaced with Ar, the mixture was filtered to remove Pd/C and the filtrate was concentrated to give 3.98 g of 5-fluoro-7-propyl-8-quinolinol as a pale purple solid (yield: 96.0%).

reactant | 7-allyl-5-fluoro-8-quinolinol | 4.09 g | C(C=C)C1=CC(=C2C=CC=NC2=C1O)F | C12H10FNO
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.40 g | [Pd] | Pd
solvent | methanol | 40.0 mL | CO | CH4O
product | 5-fluoro-7-propyl-8-quinolinol | 3.98 g, yield: 96.0% | FC1=C2C=CC=NC2=C(C(=C1)CCC)O | C12H12FNO
